US05780642
N-[2-(4-Chlorophenoxy)ethyl]-3-(imidazol-1-yl) propylamine (1.50 g) was added dropwise to 98% formic acid (1.0 ml) at 0° C. Formaldehyde (0.96 ml of a 37% aqueous solution) was added and the mixture heated at 95° C. for 6 hours. On cooling, concentrated hydrochloric acid (0.6 ml) was added. The mixture was evaporated to dryness and the residue dissolved in water, basified with 5M sodium hydroxide solution and extracted with ethyl acetate to give N-[2-(4-chlorophenoxy)ethyl]-3-(imidazol-1-yl)-N-methylpropylamine as an oil.

reactant | N-[2-(4-Chlorophenoxy)ethyl]-3-(imidazol-1-yl) propylamine | 1.50 g | ClC1=CC=C(OCCNCCCN2C=NC=C2)C=C1 | C14H18ClN3O
reactant | Formaldehyde | C=O | CH2O
reactant | hydrochloric acid | 0.6 ml | Cl | ClH
solvent | formic acid | 1.0 ml | C(=O)O | CH2O2
product | N-[2-(4-chlorophenoxy)ethyl]-3-(imidazol-1-yl)-N-methylpropylamine | ClC1=CC=C(OCCN(C)CCCN2C=NC=C2)C=C1 | C15H20ClN3O
